US06809110B2
In analogy to the procedure described in example 125 a], butoxy-acetic acid methyl ester (V. Franzen, L. Fikentscher, Ann. 1958, 617, 1-10) was deprotonated with lithium diisopropylamide and treated with 4-benzyloxy-2-methyl-benzaldehyde in tetrahydrofuran at −78° C. for 3 h to obtain 3-(4-benzyloxy-2-methyl-phenyl)-2-butoxy-3-hydroxy-propionic acid methyl ester as a mixture of two diastereomeric racemates as yellow liquid.

reactant | butoxy-acetic acid methyl ester | COC(COCCCC)=O | C7H14O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-benzyloxy-2-methyl-benzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)C | C15H14O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-benzyloxy-2-methyl-phenyl)-2-butoxy-3-hydroxy-propionic acid methyl ester | COC(C(C(O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCCCC)=O | C22H28O5
